US07652007B2
N-[6-(4-Chlorobenzyl)-1-(2,4-dichlorobenzenesulfonyl)-8-isopropyl-4,7-dioxooctahydropyrazino[1,2-a]pyrimidin-3-yl]-2,2,2-trifluoroacetamide
40 mg (0.071 mmol) of 3-amino-6-(4-chlorobenzyl)-1-(2,4-dichlorobenzenesulfonyl)-8-isopropylhexahydropyrazino[1,2-a]pyrimidine-4,7-dione were dissolved in 1.5 ml of DCM, and 0.024 ml (0.17 mmol) of trifluoroacetic anhydride and 0.075 ml (0.43 mmol) of DIEA were added. The reaction mixture was stirred at 50° C. for 1 hour. After addition of 1 ml of water, the organic phase was isolated, dried (MgSO4) and concentrated in vacuo. Purification by flash chromatography on 4 g SiO2 (elution with MeOH/DCM, gradient 0-4%) afforded 21 mg of substance. MW (calculated, monoisotopic)=654.05; MW (measured value)=655.06.

reactant | 3-amino-6-(4-chlorobenzyl)-1-(2,4-dichlorobenzenesulfonyl)-8-isopropylhexahydropyrazino[1,2-a]pyrimidine-4,7-dione | 0.071 mmol, 40 mg | NC1CN(C2N(C1=O)C(C(N(C2)C(C)C)=O)CC2=CC=C(C=C2)Cl)S(=O)(=O)C2=C(C=C(C=C2)Cl)Cl | C23H25Cl3N4O4S
reactant | trifluoroacetic anhydride | 0.17 mmol, 0.024 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | DIEA | 0.43 mmol, 0.075 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | water | 1 ml | O | H2O
solvent | DCM | 1.5 ml | C(Cl)Cl | CH2Cl2
product | N-[6-(4-Chlorobenzyl)-1-(2,4-dichlorobenzenesulfonyl)-8-isopropyl-4,7-dioxooctahydropyrazino[1,2-a]pyrimidin-3-yl]-2,2,2-trifluoroacetamide | ClC1=CC=C(CC2C(N(CC3N2C(C(CN3S(=O)(=O)C3=C(C=C(C=C3)Cl)Cl)NC(C(F)(F)F)=O)=O)C(C)C)=O)C=C1 | C25H24Cl3F3N4O5S
